US09340556B2
To a solution of ethyl 3-acetyl-1-methyl-4-oxo-1,4-dihydroquinoline-6-carboxylate (1.79 g, 6.55 mmol) in dichloromethane (40 ml) was added meta-chloroperbenzoic acid (2.2057 g, 9.84 mmol). The mixture was stirred at room temperature for 1 h, then concentrated under reduced pressure to roughly one half of the reaction volume. The resulting precipitate (O-acetate) was collected, added to methanol (20.0 ml), and heated at 65° C. overnight. After cooling, the reaction was filtered, and the precipitate was washed with dichloromethane to give ethyl 3-hydroxy-1-methyl-4-oxo-1,4-dihydroquinoline-6-carboxylate (0.9956 g, 4.03 mmol, 61.5% yield) as white solid. LCMS: (M+H)+: 248.0.

reactant | ethyl 3-acetyl-1-methyl-4-oxo-1,4-dihydroquinoline-6-carboxylate | 6.55 mmol, 1.79 g | C(C)(=O)C1=CN(C2=CC=C(C=C2C1=O)C(=O)OCC)C | C15H15NO4
reactant | meta-chloroperbenzoic acid | 9.84 mmol, 2.2057 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | ethyl 3-hydroxy-1-methyl-4-oxo-1,4-dihydroquinoline-6-carboxylate | 4.03 mmol, 0.9956 g, 61.5% yield | OC1=CN(C2=CC=C(C=C2C1=O)C(=O)OCC)C | C13H13NO4
